US06548538B2
4-Methyl-1,3-oxazole-5-carbaldehyde oxime
0.50 g (4.50 mmol) of 4-methyl-1,3-oxazole-5-carbaldehyde [prepared from the corresponding alcohol (Chem. Ber. 1961, 1248) by Swern oxidation (Tetrahedron 34, 1651 (1978))] is initially charged in 3 ml of water and treated with 0.66 g (9.45 mmol) of hydroxylamine hydrochloride in 2 ml of water. 0.68 g (4.95 mmol) of potassium carbonate is then added. After 2 h, the mixture is filtered off with suction and the product is washed with water and dried at room temperature. The yield is 0.41 g (72.2% of theory).

reactant | 4-methyl-1,3-oxazole-5-carbaldehyde | 4.50 mmol, 0.50 g | CC=1N=COC1C=O | C5H5NO2
reactant | hydroxylamine hydrochloride | 9.45 mmol, 0.66 g | Cl.NO
reactant | potassium carbonate | 4.95 mmol, 0.68 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 3 ml | O | H2O
solvent | water | 2 ml | O | H2O
product | 4-Methyl-1,3-oxazole-5-carbaldehyde oxime | CC=1N=COC1C=NO | C5H6N2O2
